US08604019B2
N-[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]ethane-1,2-diamine
The title compound was prepared in analogy to Example 3-1 in Scheme 3 by using 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one and ethylenediamine. MS obsd. (ESI+) [(M+H)+] 388, 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.68-7.75 (m, 2H), 7.41-7.51 (m, 2H), 6.81 (s, 1H), 5.21 (d, J=5.6 Hz, 1H), 4.65-4.81 (m, 2H), 4.48 (br. s., 1H), 3.68 (m, 2H), 3.32-3.47 (m, 2H), 2.50 (s, 3H).

reactant | 2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylthieno[3,2-d]pyrimidin-4(3H)-one | O=S1CCN(CC2=C1C=CC=C2)C=2NC(C1=C(N2)C=C(S1)C)=O | C16H15N3O2S2
reactant | ethylenediamine | C(CN)N | C2H8N2
product | N-[6-Methyl-2-(1-oxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]ethane-1,2-diamine | CC1=CC=2N=C(N=C(C2S1)NCCN)N1CCS(C2=C(C1)C=CC=C2)=O | C18H21N5OS2
